US07807673B2
Step B: N-[(3-aminophenyl)methyl]-2,2,2-trifluoroacetamide
To a solution of 2,2,2-trifluoro-N-[(3-nitrophenyl)methyl]acetamide (0.5 g, 2.0 mmol) in i-PrOH was added 10% Pd/C (40 mg, 0.04 mmol). A balloon filled with hydrogen gas was installed, and the reaction was stirred vigorously at rt. After 15 h, the reaction mixture was filtered through celite, adsorbed onto silica gel, and purified by column chromatography to generate the title compound in 85% yield. 1H NMR (400 MHz, CDCl3) δ 7.14-7.27 (m, 1H), 6.59-6.68 (m, 3H), 4.43 (s, 2H), 3.74 (s, 2H). ES-LC/MS m/z=219 [M+H]+.

reactant | 2,2,2-trifluoro-N-[(3-nitrophenyl)methyl]acetamide | 2.0 mmol, 0.5 g | FC(C(=O)NCC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C9H7F3N2O3
reactant | hydrogen | [H][H] | H2
solvent | i-PrOH | CC(C)O | C3H8O
catalyst | Pd/C | 0.04 mmol, 40 mg | [Pd] | Pd
product | N-[(3-aminophenyl)methyl]-2,2,2-trifluoroacetamide | 85% yield | NC=1C=C(C=CC1)CNC(C(F)(F)F)=O | C9H9F3N2O
